US05817691
Preparation of 3-Bromo-5-(p-chlorophenyl)-4-[(p-chlorophenyl)sulfonyl]-1-(ethoxymethyl)-2-(trifluoromethyl)pyrrole
A solution of 3-bromo-5-(p-chlorophenyl)-4-[(p-chlorophenyl)sulfonyl]-2-(trifluoromethyl)pyrrole (0.92 g, 1.84 mmol) and potassium tert-butoxide (0.26 g, 2.21 mmol) in tetrahydrofuran is stirred at room temperature for 5 minutes, treated with a solution of chloromethyl ethyl ether (0.21 g, 2.21 mmol) in tetrahydrofuran, stirred at room temperature overnight, diluted with ethyl acetate, washed sequentially with water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give the title product as a white solid (0.98 g, mp 107°-112° C.).

reactant | 3-bromo-5-(p-chlorophenyl)-4-[(p-chlorophenyl)sulfonyl]-2-(trifluoromethyl)pyrrole | 1.84 mmol, 0.92 g | BrC1=C(NC(=C1S(=O)(=O)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C(F)(F)F | C17H9BrCl2F3NO2S
reactant | potassium tert-butoxide | 2.21 mmol, 0.26 g | CC(C)([O-])C.[K+]
reactant | chloromethyl ethyl ether | 2.21 mmol, 0.21 g | C(C)OCCl | C3H7ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-5-(p-chlorophenyl)-4-[(p-chlorophenyl)sulfonyl]-1-(ethoxymethyl)-2-(trifluoromethyl)pyrrole | 0.98 g | BrC1=C(N(C(=C1S(=O)(=O)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)COCC)C(F)(F)F | C20H15BrCl2F3NO3S
